US04064279
PREPARATION OF 2,8-DITHIANON-4-ENE-4-CARBOXALDEHYDE
Into a 1 liter reaction flask equipped with mechanical stirrer, 250 ml addition funnel, Y adapter, thermometer and Friedrich condenser is placed 208 grams of methional. The reaction mass is cooled to 0° C and 100 ml of a 0.5 molar solution of sodium hydroxide is added dropwise with stirring. The resulting reaction mass is extracted with three 100 ml portions of methylene chloride and the extracts are combined, dried over anhydrous sodium sulfate and evaporated on a rotary evaporator. The resulting product was then subjected to vacuum distillation to give the product, boiling point 129° C (1 mm Hg).

reactant | methional | 208 grams | CSCCC=O | C4H8OS
reactant | sodium hydroxide | [OH-].[Na+]
product | 2,8-DITHIANON-4-ENE-4-CARBOXALDEHYDE | CSCC(=CCCSC)C=O | C8H14OS2
